US05849949
Preparation of cyclopropane-1,1-dicarboxylic acid (CDA)
In a 4 liter multinecked flask, 800 ml of aqueous saturated K2 SO4 solution (from previous batches, neutralized), 500 ml of methanol and 330 g of KOH (85%, 5.0 mol) are heated and then, at 68° C., over a period of 90 minutes, a 316.2 g amount of dimethyl cyclopropane-1,1-dicarboxylate (2.0 mol) is added gradually. During the postreaction time of 4 hours, some of the methanol distills. After the reaction solution has cooled it is acidified, with cooling, with a 281 g amount of sulfuric acid (96% strength, 2.75 mol) which has previously been diluted with 100 ml of water. The K2SO4 which crystallizes is filtered via a sintered disk, washed with methanol and dried: 380 g (87.2% of the theoretical yield).

reactant | methanol | 500 ml | CO | CH4O
reactant | KOH | 5.0 mol, 330 g | [OH-].[K+]
reactant | dimethyl cyclopropane-1,1-dicarboxylate | 2.0 mol | C1(CC1)(C(=O)OC)C(=O)OC | C7H10O4
reactant | sulfuric acid | 2.75 mol | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | cyclopropane-1,1-dicarboxylic acid | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
